2152-04-21 07:25:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - ativan 0.25mg PO x 1 for anxiety w/ good effect
   - levaquin continued
   - solumedrol 40 q 8
   - ask family to bring in home Budesonide neb (non-formulary)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2152-4-21**] 12:56 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Cough, Dyspnea, Tachypnea, Wheeze
   Flowsheet Data as of  [**2152-4-21**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.8
C (98.2
   HR: 98 (90 - 113) bpm
   BP: 137/65(80) {112/53(70) - 160/96(101)} mmHg
   RR: 26 (21 - 33) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                    850 mL
                                                                    600 mL
   Urine:
                                                                    850 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -850 mL
                                                                   -600 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: 7.38/67/86.[**Numeric Identifier **]/42/10
   Physical Examination
   General Appearance: Anxious
   Eyes / Conjunctiva: No(t) PERRL, anicteric
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   ), diminished
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Oriented (to): x3, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   365 K/uL
   9.5 g/dL
   162 mg/dL
   0.6 mg/dL
   42 mEq/L
   4.2 mEq/L
   18 mg/dL
   91 mEq/L
   139 mEq/L
   31.6 %
   10.3 K/uL
        [image002.jpg]
                             [**2152-4-20**]  09:45 AM
                             [**2152-4-21**]  03:31 AM
   WBC
   10.3
   Hct
   31.6
   Plt
   365
   Cr
   0.6
   TCO2
   41
   Glucose
   162
   Other labs: Differential-Neuts:92.9 %, Lymph:5.3 %, Mono:1.7 %, Eos:0.1
   %, Ca++:10.2 mg/dL, Mg++:2.1 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
 HYPERGLYCEMIA
 .H/O ACIDOSIS, RESPIRATORY
 RESPIRATORY FAILURE, CHRONIC
 ANXIETY
   Ms [**Known lastname 5042**] is an 82 year old woman with history of severe COPD (on 4L
   NC at home), diabetes, obesity, presenting with respiratory distress
   consistent with COPD exacerbation, in fair condition.
   .
   #. COPD EXACERBATION: Patient with well known COPD and poor functional
   reserve with decreased FEV1 and FEV1/FVC ratios. Infection appears most
   likely diagnosis for etiology of exacerbation. Tx'd in [**Month (only) **] with Avelox
   and steroids, improved. Hx of pseudomonas infection in [**2147**].
   -- X-Ray without evidence of infiltrate
   -- Most likely this represents worsening bronchitis causing
   inflammatory response
   -- Continue IV solumedrol 40 q 8 for now, GI prophylaxis
   -- Sputum culture
   -- Albuterol q 3, atrovent q 6
   -- Levaquin for now & consider Zosyn for hx pseudomonas in the past if
   pt deteriorates
   -- ABG if worsening mental status, otherwise follow sats
   .
   #. DIABETES
   - Hold Glucophage for now in case need for CT dye
   - RISS  for coverage
   .
   #. SUPRAVENTRICULAR TACHYCARDIA / AVNRT: Well controlled on Verapamil,
   has not had any symptomatic episodes or procedures for this.
   -- Continue Verapamil, well-controlled on 180 SR [**Hospital1 **] but for tonight in
   case of infection, will use shorter-acting version of verapamil
   -- Dilt IV PRN
   .
   .
   # Anxiety: On ativan daily.
   - Cautious use of ativan in setting of resp distress
   .
   .
   #. HYPOTHYROIDISM: Continue hormone replacement at her home dose
   -- 100mcg daily  levoxyl
   .
   .
   # FEN:  Resume regular diet when respiratory status improves
   .
   # PPX:
   -DVT ppx with SQ Heparin.
   -Bowel regimen
   .
   ACCESS: PIV's
   .
   CODE STATUS: DNI but OK for chemical code, CPR,
   .
   EMERGENCY CONTACT:  [**Name (NI) **] [**Name (NI) **] [**Name (NI) 5042**] [**Telephone/Fax (1) 5043**] or [**Telephone/Fax (1) 5044**]
   .
   DISPOSITION:  ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2152-4-20**] 12:08 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  DNR/DNI
   Disposition: ICU

2152-04-22 07:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: difficulty breathing
   24 Hour Events:
   - gram positive cocci in sputum, started vanc, awaiting speciation
   - restarted SR verapamil
   - restarted glucophage
   - gave one-time additional dose of .25mg ativan
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2152-4-21**] 08:00 AM
   Vancomycin - [**2152-4-21**] 11:50 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2152-4-22**] 12:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Dyspnea
   Flowsheet Data as of  [**2152-4-22**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.4
C (97.6
   HR: 90 (84 - 109) bpm
   BP: 131/51(71) {97/48(66) - 157/74(89)} mmHg
   RR: 25 (18 - 32) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                    600 mL
                  PO:
                                                                    300 mL
                  TF:
   IVF:
                                                                    300 mL
   Blood products:
   Total out:
                                                                  1,000 mL
                                                                    600 mL
   Urine:
                                                                  1,000 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -400 mL
                                                                   -600 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///33/
   Physical Examination
   General Appearance: Well nourished, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   399 K/uL
   9.3 g/dL
   210 mg/dL
   0.7 mg/dL
   33 mEq/L
   4.3 mEq/L
   29 mg/dL
   92 mEq/L
   135 mEq/L
   29.5 %
   16.4 K/uL
        [image002.jpg]
                             [**2152-4-20**]  09:45 AM
                             [**2152-4-21**]  03:31 AM
                             [**2152-4-22**]  02:57 AM
   WBC
   10.3
   16.4
   Hct
   31.6
   29.5
   Plt
   365
   399
   Cr
   0.6
   0.7
   TCO2
   41
   Glucose
   162
   210
   Other labs: Differential-Neuts:92.9 %, Lymph:5.3 %, Mono:1.7 %, Eos:0.1
   %, Ca++:9.8 mg/dL, Mg++:2.2 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
 HYPERGLYCEMIA
H/O ACIDOSIS, RESPIRATORY
 RESPIRATORY FAILURE, CHRONIC
 ANXIETY
   Ms [**Known lastname 5042**] is an 82 year old woman with history of severe COPD (on 4L
   NC at home), diabetes, obesity, presenting with respiratory distress
   consistent with COPD exacerbation, in fair condition.
   #. COPD EXACERBATION: Patient with well known COPD and poor functional
   reserve with decreased FEV1 and FEV1/FVC ratios. Infection appears most
   likely diagnosis for etiology of exacerbation. Tx'd in [**Month (only) **] with Avelox
   and steroids, improved. Hx of pseudomonas infection in [**2147**].
   Improving.
   -- X-Ray with concern for PNA
   -- Most likely this represents worsening bronchitis causing
   inflammatory response
   -- Continue IV solumedrol 40 q 8 for today, switch to prednisone
   tomorrow, GI prophylaxis
   -- Sputum culture
 GPC
   -- Albuterol q 3, atrovent q 6
   -- Levaquin for now & consider Zosyn for hx pseudomonas in the past if
   pt deteriorates
   -- Add Vancomycin today
   -- ABG if worsening mental status, otherwise follow sats
   #. DIABETES.  Restarted Glucophage [**4-21**]
   - RISS  PRN
   #. SUPRAVENTRICULAR TACHYCARDIA / AVNRT: Well controlled on Verapamil,
   has not had any symptomatic episodes or procedures for this.
   -- Continue Verapamil, well-controlled on 180 SR [**Hospital1 **]
 go to longacting
   today
   -- Dilt IV PRN
   # Anxiety: On ativan daily.
   - Cautious use of ativan in setting of resp distress
   #. HYPOTHYROIDISM: Continue hormone replacement at her home dose
   -- 100mcg daily  levoxyl
   .
   # FEN:  regular diet / replete PRN
   # PPX:   DVT ppx with SQ Heparin  /  Bowel regimen   /   po PPI
   ACCESS: PIV's
   CODE STATUS: Full Code
   Disposition: ICU
   EMERGENCY CONTACT:  [**Name (NI) **] [**Name (NI) **] [**Name (NI) 5042**] [**Telephone/Fax (1) 5043**] or [**Telephone/Fax (1) 5044**]